US06440985B1
5-(5-bromothiophen-2-ylmethylene)-2-thioxodihydropyrimidine-4,6-dione
In a procedure identical to Example 1, 0.144 g (1 mmol) of 4,6-dihydroxy-2-mercaptopyrimidine, and 0.207 g (1 mmol) of 5-bromothiophenecarboxaldehyde in a solution of 2 ml of glacial acetic acid and 4 ml of DMF was heated at 80° C. for 12 hours. Upon cooling to room temperature, the reaction was poured into water and the precipitate collected by filtration. The crude product was washed with water, and the solid boiled in methanol for 1 minute. Filtration provided 92 mg of product as an orange solid.

reactant | 4,6-dihydroxy-2-mercaptopyrimidine | 1 mmol, 0.144 g | OC1=NC(=NC(=C1)O)S | C4H4N2O2S
reactant | 5-bromothiophenecarboxaldehyde | 1 mmol, 0.207 g | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(5-bromothiophen-2-ylmethylene)-2-thioxodihydropyrimidine-4,6-dione | 92 mg | BrC1=CC=C(S1)C=C1C(NC(NC1=O)=S)=O | C9H5BrN2O2S2
